US08314256B2
N-Benzyl-2-(1H-indol-3-yl)-N-methyl-2-oxo-acetamide was synthesized following scheme I above starting from (1H-indol-3-yl)-oxo-acetyl chloride and benzyl-methyl-amine. Yield (54%). HPLC ret. time 2.96 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 12.35 (s, 1H), 8.25 (s, 0.5H), 8.13-8.11 (m, 1.5H), 7.54 (m, 1H), 7.44-7.23 (m, 7H), 4.68 (s, 1H), 4.47 (s, 1H), 2.88 (s, 1.5H), 2.85 (s, 1.5H); ESI-MS 293.3 m/z (MH+).

reactant | (1H-indol-3-yl)-oxo-acetyl chloride | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | benzyl-methyl-amine | C(C1=CC=CC=C1)NC | C8H11N
solvent | CH3CN | CC#N | C2H3N
product | N-Benzyl-2-(1H-indol-3-yl)-N-methyl-2-oxo-acetamide | C(C1=CC=CC=C1)N(C(C(=O)C1=CNC2=CC=CC=C12)=O)C | C18H16N2O2
